US08053438B2
A 1.0M solution of sodium bis(trimethylsilyl)amide in tetrahydrofuran (102 mL, 102 mmol) was added dropwise to a solution of cyclohexane-1,3-dione (11.4 g, 102 mmol) in THF (200 ml) at −50° C. The mixture was stirred at −50° C. for 15 min and trifluoromethanesulfonic anhydride (30.1 g, 107 mmol) was added through an addition funnel. After completion of the addition the reaction mixture was allowed to slowly warm to RT. The reaction mixture was then cooled to −30° C., and 200 mL of saturated aqueous sodium bicarbonate was added slowly. The solvent was removed under reduced pressure and the remaining aqueous layer was extracted with EtOAc (2×400 ml). The combined organic layers were washed with brine and dried over sodium sulfate. Filtration and concentration under reduced pressure, followed by flash chromatography on silica gel (0% to 10% EtOAc in hexanes) afforded 3-oxocyclohex-1-enyl trifluoromethanesulfonate as a yellow oil. MS (ESI, pos. ion) m/z: 245.0 (M+1).

reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | cyclohexane-1,3-dione | 102 mmol, 11.4 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | trifluoromethanesulfonic anhydride | 107 mmol, 30.1 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 102 mmol, 102 mL | O1CCCC1 | C4H8O
product | 3-oxocyclohex-1-enyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC(CCC1)=O)(F)F | C7H7F3O4S
